US06472227B1
1-Bromoethyl Tetrahydropyranylether
To 2-bromoethanol (125 g, 1.0 equiv), cooled in an ice bath, was added p-toluenesulfonic acid monohydrate (catalytic amount). Dihydropyran (93 g, 1.1 equiv) was added dropwise, with stirring, under an argon atmosphere. When the addition was complete, the reaction was stirred for 1 hour at room temperature. The residue was purified by short path distillation, giving approximately 125 g of product.

reactant | 2-bromoethanol | 125 g, 1.0 equiv | BrCCO | C2H5BrO
reactant | p-toluenesulfonic acid monohydrate | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | Dihydropyran | 93 g, 1.1 equiv | O1CCCC=C1 | C5H8O
product | 1-Bromoethyl Tetrahydropyranylether | approximately 125 g | BrC(C)OC1OCCCC1 | C7H13BrO2
